US08283353B2
4′-[(4-{trans-4-[(1-hydroxycyclopentyl)methoxy]cyclohexyl}-5-oxo-7-propyl-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl)methyl]biphenyl-2-carbonitrile
4′-[(4-{trans-4-[(Methylsulfanyl)methoxy]cyclohexyl}-5-oxo-7-propyl-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl)methyl]biphenyl-2-carbonitrile (1.0 g) was dissolved in toluene (10 mL), and sulfuryl chloride (0.16 mL) was added at 0° C. The mixture was stirred at room temperature for 2 hr, the precipitate was filtered off, and the filtrate was concentrated under reduced pressure. The residue was mixed with cyclopentanone (0.16 g) and tetrahydrofuran (10 mL), and samarium iodide (57 mL, 0.1 M tetrahydrofuran solution) was added dropwise at room temperature under an argon atmosphere. The mixture was stirred at room temperature for 65 hr and added to saturated aqueous ammonium chloride solution, and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel column chromatography to give the title compound as a colorless solid (0.026 g, 2.4%).

reactant | 4′-[(4-{trans-4-[(Methylsulfanyl)methoxy]cyclohexyl}-5-oxo-7-propyl-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl)methyl]biphenyl-2-carbonitrile | 1.0 g | CSCO[C@@H]1CC[C@H](CC1)N1C=2N(C(=C(C1=O)CC1=CC=C(C=C1)C=1C(=CC=CC1)C#N)CCC)N=CN2 | C30H33N5O2S
reactant | sulfuryl chloride | 0.16 mL | S(=O)(=O)(Cl)Cl | Cl2O2S
reactant | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
product | 4′-[(4-{trans-4-[(1-hydroxycyclopentyl)methoxy]cyclohexyl}-5-oxo-7-propyl-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl)methyl]biphenyl-2-carbonitrile | 0.026 g, 2.4% | OC1(CCCC1)CO[C@@H]1CC[C@H](CC1)N1C=2N(C(=C(C1=O)CC1=CC=C(C=C1)C=1C(=CC=CC1)C#N)CCC)N=CN2 | C34H39N5O3
